US05780498
Following the procedure described in example 12 and starting from N-(3,5-dimethylbenzoyl)-N-cyclohexyl-(D)-phenylalanine (prepared by reductive alkylation of (D)-phenylalanine methyl ester with cyclohexanone in the presence of sodium cyanoborohydride followed by N-acylation with 3,5-dimethylbenzoyl chloride in the presence of DMAP and hydrolysis of the methyl ester moiety according to example 1 and (L)-tryptophan methyl ester hydrochloride gives N-(3,5-dimethylbenzoyl)-N-cyclohexyl-(D)-phenylalanyl-(L)-tryptophan; FAB-MS m/e 566 (M+H)+.

reactant | N-(3,5-dimethylbenzoyl)-N-cyclohexyl-(D)-phenylalanine | CC=1C=C(C(=O)N([C@H](CC2=CC=CC=C2)C(=O)O)C2CCCCC2)C=C(C1)C | C24H29NO3
reactant | (D)-phenylalanine methyl ester | COC([C@H](N)CC1=CC=CC=C1)=O | C10H13NO2
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 3,5-dimethylbenzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | (L)-tryptophan methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CNC2=CC=CC=C12)=O
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(3,5-dimethylbenzoyl)-N-cyclohexyl-(D)-phenylalanyl-(L)-tryptophan | CC=1C=C(C(=O)N([C@H](CC2=CC=CC=C2)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C(=O)O)C2CCCCC2)C=C(C1)C | C35H39N3O4
